US08877968B2
150 mg (0.4 mmol) of methyl(S)-2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionate are diluted in 4 mL of THF and 1 mL of water, and 150 mg (6 mmol) of lithium hydroxide are added. The mixture is heated for 10 minutes at 100° C. in a microwave reactor. The solvents are evaporated off and the residue is then purified on a pad of silica (eluent: 1/1 dichloromethane/methanol). 100 mg of 2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionic acid in the form of a pale yellow powder are obtained in a yield of 69%.

reactant | methyl(S)-2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionate | 0.4 mmol, 150 mg | C(C)N(C(N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC)=O)CCC=1N=CNC1 | C19H26N4O4
reactant | lithium hydroxide | 6 mmol, 150 mg | [OH-].[Li+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | 2-{3-ethyl-3-[2-(1H-imidazol-4-yl)ethyl]ureido}-3-(4-methoxyphenyl)propionic acid | 100 mg, yield of 69% | C(C)N(C(NC(C(=O)O)CC1=CC=C(C=C1)OC)=O)CCC=1N=CNC1 | C18H24N4O4
